US07465731B2
Ethyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate (4.70 g) and (3R)-1-(cyclohexylmethyl)-3-piperidinamine (4.77 g) were combined in 1,4-dioxane (80 mL) at ambient temperature. To this solution were added palladium(II) acetate (248 mg) and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl(652 mg) at the same temperature and the mixture was stirred for 5 minutes. To the resulting mixture was added cesium carbonate (10.1 g) and the mixture was heated at 95° C. for twenty-four hours. The reaction mixture was allowed to cool to ambient temperature and the insoluble solid was filtered off. The filtrate was concentrated in vacuo and the residue was extracted with chloroform (300 mL). The chloroform phase was washed with saturated sodium bicarbonate (100 mL) and brine (100 mL). The aqueous layer was reextracted with chloroform (100 mL). The organic phase were combined, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by a flash column chromatography eluting with a gradient solvent system from EtOAc-Hexane (1:1 v/v) to EtOAc to afford ethyl (2E)-3-(5-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylate (4.80 g) as a yellow amorphous solid.

reactant | Ethyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate | 4.70 g | ClC=1N=CC(=NC1)/C=C/C(=O)OCC | C9H9ClN2O2
reactant | (3R)-1-(cyclohexylmethyl)-3-piperidinamine | 4.77 g | C1(CCCCC1)CN1C[C@@H](CCC1)N | C12H24N2
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 652 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | cesium carbonate | 10.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 248 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl (2E)-3-(5-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylate | 4.80 g | C1(CCCCC1)CN1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC | C21H32N4O2
